US05849945
Preparation process of 5-acetylamino-7-fluoro-8-methyl-1,2,3,4-tetrahydronaphthalene
In a 50-ml autoclave, 1.0 g of 5-acetylamino-7 -fluoro-8-methyl-l-tetralone and 10 ml of methanol were charged. To the resulting mixture, 0.5 g of 10% palladium-carbon was added. The hydrogen pressure was increased to 40 kg/cm2 at room temperature, under which the resulting mixture was stirred at 50° C. for 18 hours. After the completion of the reaction, the reaction mixture was filtered. The catalyst so obtained was washed with chloroform and then the filtrate was concentrated under reduced pressure. To the residue, isopropyl ether was added. The crystals so precipitated were collected by filtration, followed by drying under reduced pressure, whereby 0.76 g of the title compound was obtained.

reactant | 5-acetylamino-7 -fluoro-8-methyl-l-tetralone | 1.0 g | C(C)(=O)NC1=C2CCCC(C2=C(C(=C1)F)C)=O | C13H14FNO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
solvent | methanol | 10 ml | CO | CH4O
product | 5-acetylamino-7-fluoro-8-methyl-1,2,3,4-tetrahydronaphthalene | 0.76 g | C(C)(=O)NC1=C2CCCCC2=C(C(=C1)F)C | C13H16FNO
